US06352993B1
Step 4: 5,6-dimethyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-(4-fluoro-2-hydroxyphenylamino) pyrimidine
Boron tribromide (1M dichloromethane solution, 1.9 ml, 1.9 mmol) was added dropwise to a solution of 5,6-dimethyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-(4-fluoro-2-methoxyphenylamino)pyrimidine(0.247 g, 0.63 mmol) in dichloromethane(2 ml) at 0° C., stirred for 1 hour, and poured into ice water. The separated organic layer was concentrated and the residual oil was purified by column chromatography (dichloromethane/methanol=10/1) to give 57 mg of the titled compound. (Yield 24%) NMR (CDCl3): 1.5 (d, 3H), 2.2 (s, 3H), 2.3 (s, 3H), 2.7 (m, 1H), 3.1 (m, 1H), 3.5 (m, 1H), 3.9 (m, 1H), 5.0 (q, 1H), 6.6 (m, 6H), 7.0 (d, 1H).

reactant | Boron tribromide | 1.9 mmol, 1M, 1.9 ml | B(Br)(Br)Br | BBr3
reactant | 5,6-dimethyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-(4-fluoro-2-methoxyphenylamino)pyrimidine | 0.63 mmol, 0.247 g | CC=1C(=NC(=NC1C)NC1=C(C=C(C=C1)F)OC)N1C(C2=CC=CC=C2CC1)C | C23H25FN4O
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 5,6-dimethyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-(4-fluoro-2-hydroxyphenylamino) pyrimidine | 57 mg, Yield 24% | CC=1C(=NC(=NC1C)NC1=C(C=C(C=C1)F)O)N1C(C2=CC=CC=C2CC1)C | C22H23FN4O
